US07064116B2
17β-(3-hydroxy-1-butynyl)-5α-androstane-3α-ol
A solution of 4[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol (30 mg, 0.052 mmol) in anhydrous tetrahydrofuran (2 mL) was treated with a 1M solution of (n-Bu)4N+F− (1.04 mL, 1.04 mmol) and the resulting solution was stirred at RT for 24 h. Addition of saturated aqueous NH4Cl solution was followed by extraction with ethyl acetate. The organic layer was extracted with water, brine and was dried with Na2SO4, and the solvent was evaporated in vacuo. Subsequent purification of the residue with flash column chromatography using methylene chloride/ethyl acetate 90/10 as eluent afforded the desired compound named above.

reactant | 4[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol | 0.052 mmol, 30 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C#CC(C)O | C39H54O2Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 17β-(3-hydroxy-1-butynyl)-5α-androstane-3α-ol | OC(C#C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O)C | C23H36O2
